US04062861
The reaction is effected as in Example 171 by using 1-ethyl-1-butyl-3-(5-t-butyl-3-isoxazolyl)urea and methyl iodide to give 1-ethyl-1-butyl-3-methyl-3-(5-t-butyl-3-isoxazolyl)urea as an oil boiling at 140° to 145° C (bath temperature)/0.67 mm Hg.

reactant | 1-ethyl-1-butyl-3-(5-t-butyl-3-isoxazolyl)urea | C(C)N(C(=O)NC1=NOC(=C1)C(C)(C)C)CCCC | C14H25N3O2
reactant | methyl iodide | CI | CH3I
product | 1-ethyl-1-butyl-3-methyl-3-(5-t-butyl-3-isoxazolyl)urea | C(C)N(C(=O)N(C1=NOC(=C1)C(C)(C)C)C)CCCC | C15H27N3O2
